US06559173B1
5-Chloro-3-[(5-phenyl-1H-pyrazol-3-ylamino)-methylene]-1,3-dihydro-indol-2-one
The named compound is prepared by substituting E & Z-3-[(hydroxy)-methylene]-5-chloro-1,3-dihydro-indol-2-one for E & Z-3-[(hydroxy)-methylene]-1,3-dihydro-indol-2-one and 3-amino-5-phenylpyrazole for 3-aminopyrazole in the reaction of Example 1. Specifically, E & Z-3-[(hydroxy)-methylene]-5-chloro-1,3-dihydro-indol-2-one (0.100 gms.) is reacted with 0.1668 gms. of 3-amino-5-phenylpyrazole by refluxing in tetrahydrofuran (2.5 mL).

reactant | Z-3-[(hydroxy)-methylene]-5-chloro-1,3-dihydro-indol-2-one | O\C=C\1/C(NC2=CC=C(C=C12)Cl)=O | C9H6ClNO2
reactant | Z-3-[(hydroxy)-methylene]-1,3-dihydro-indol-2-one | O\C=C\1/C(NC2=CC=CC=C12)=O | C9H7NO2
reactant | 3-amino-5-phenylpyrazole | NC1=NNC(=C1)C1=CC=CC=C1 | C9H9N3
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
reactant | Z-3-[(hydroxy)-methylene]-5-chloro-1,3-dihydro-indol-2-one | 0.100 gms | O\C=C\1/C(NC2=CC=C(C=C12)Cl)=O | C9H6ClNO2
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
product | 5-Chloro-3-[(5-phenyl-1H-pyrazol-3-ylamino)-methylene]-1,3-dihydro-indol-2-one | ClC=1C=C2C(C(NC2=CC1)=O)=CNC1=NNC(=C1)C1=CC=CC=C1 | C18H13ClN4O
